US07034029B2
A solution of 5-aminoindole (6.23 g, 47 mmol), bis(2-chloroethyl)amine hydrochloride (16.8 g, 96 mmol) and triethylamine (19 mL, 141 mmol) in butanol is heated at 100° C. for 8 hours, cooled to room temperature and concentrated in vacuo to give 9.46 g of 5-piperazin-1-yl-1H-indole.

reactant | 5-aminoindole | 47 mmol, 6.23 g | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | bis(2-chloroethyl)amine hydrochloride | 96 mmol, 16.8 g | Cl.ClCCNCCCl
reactant | triethylamine | 141 mmol, 19 mL | C(C)N(CC)CC | C6H15N
solvent | butanol | C(CCC)O | C4H10O
product | 5-piperazin-1-yl-1H-indole | 9.46 g | N1(CCNCC1)C=1C=C2C=CNC2=CC1 | C12H15N3
